US08067448B2
Ethyl 4-(1H-pyrazol-1-yl)benzoate
To a solution of 4-(1H-pyrazol-1-yl)benzoic acid (CAS 160209-00-0, 678 mg, 3.60 mmol) in absolute EtOH (10 mL) was added sulfuric acid (0.1 mL) at room temperature. The reaction mixture was heated to reflux and stirred for 71 h, then concentrated under reduced pressure. The residue was partitioned between sat. aq. NaHCO3 (60 mL) and EtOAc (50 mL). The aqueous layer was extracted with EtOAc (50 mL). The combined organic extracts were dried (Na2SO4), filtered and concentrated under reduced pressure to provide the title compound as an off white solid (711 mg, 91%): 1H NMR (400 MHz, CDCl3, δ in ppm) 8.14 (d, J=8.6 Hz, 2H), 8.01 (d, J=2.5 Hz, 1H), 7.78 (d, J=8.8 Hz, 2H), 7.78-7.75 (m, 1H), 6.51 (t, J=1.8 Hz, 1H), 4.39 (q, J=7.2 Hz, 2H), 1.41 (t, J=7.0 Hz, 3H).

reactant | 4-(1H-pyrazol-1-yl)benzoic acid | 3.60 mmol, 678 mg | N1(N=CC=C1)C1=CC=C(C(=O)O)C=C1 | C10H8N2O2
reactant | sulfuric acid | 0.1 mL | S(O)(O)(=O)=O | H2O4S
reactant | EtOH | 10 mL | CCO | C2H6O
product | Ethyl 4-(1H-pyrazol-1-yl)benzoate | N1(N=CC=C1)C1=CC=C(C(=O)OCC)C=C1 | C12H12N2O2
